US06150352
Step 4.1A 2-amino-4-chloro-5-iodobenzoic acid methyl ester
To a suspension of 2-acetylamino-4-chlorobenzoic acid methyl ester (2.0 g in 80 mL of dry chloroform) and 2.5 g silver trifluoromethanesulfonate was added iodine (2.87 g in 40 mL chloroform) and the mixture stirred at room temperature. After 5 hours, the mixture was filtered over diatomaceous earth and the filtrate concentrated in vacuo. Purification of the resulting oil by flash chromatography on silica gel (hexane:ethyl acetate, 95:5; then 90:10) gave the title compound (2.26 g).

reactant | 2-acetylamino-4-chlorobenzoic acid methyl ester | 80 mL, 2.0 g | COC(C1=C(C=C(C=C1)Cl)NC(C)=O)=O | C10H10ClNO3
reactant | iodine | 40 mL, 2.87 g | II | I2
catalyst | silver trifluoromethanesulfonate | 2.5 g | FC(S(=O)(=O)[O-])(F)F.[Ag+]
product | 2-amino-4-chloro-5-iodobenzoic acid methyl ester | 2.26 g | COC(C1=C(C=C(C(=C1)I)Cl)N)=O | C8H7ClINO2
